US05292901
[{α-(6-Isopropyl-1,3-benzodioxol-5-yl)benzyl}thio]acetic acid
1.2 g of α-(6-isopropyl-1,3-benzodioxol-5-yl)benzyl alcohol was dissolved in 10 ml of benzene, followed by the addition of 490 mg of mercaptoacetic acid and a catalytic amount of p-toluenesulfonic acid monohydrate. The obtained mixture was heated under reflux for one hour and cooled, followed by the addition of benzene. The mixture was washed with water, followed by the addition of a 1N aqueous solution of sodium hydroxide. The alkaline layer was separated, acidified with concentrated hydrochloric acid and extracted with chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled to remove the solvent. The residue was purified by silica gel column chromatography (hexane/chloroform=3:7) to obtain 1.42 g of the title compound as a colorless prismatic crystal.

reactant | α-(6-isopropyl-1,3-benzodioxol-5-yl)benzyl alcohol | 1.2 g | C(C)(C)C=1C(=CC2=C(OCO2)C1)C(C1=CC=CC=C1)O | C17H18O3
reactant | mercaptoacetic acid | 490 mg | SCC(=O)O | C2H4O2S
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | [{α-(6-Isopropyl-1,3-benzodioxol-5-yl)benzyl}thio]acetic acid | 1.42 g | C(C)(C)C=1C(=CC2=C(OCO2)C1)C(C1=CC=CC=C1)SCC(=O)O | C19H20O4S
